US04987132
A solution of 1.25 g of sodium azide in 2.5 ml of water was added to a solution of 900 mg of p-chloromethyl(heptyloxy)benzene in 25 ml of N,N-dimethylformamide, and the mixture was stirred at 100° C. for 6 hours. After cooling, the reaction mixture was diluted with water, and the product was extracted with ether. The ether layer was washed in sequence with water and saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. A solution of the thus-obtained residual oil in 10 ml of tetrahydrofuran was added dropwise at 0° C. over 5 minutes to a suspension of 200 mg of lithium aluminum hydride in 15 ml of tetrahydrofuran. The resultant mixture was stirred at the same temperature for 1 hour and then at room temperature for 1 hour. Then, sodium sulfate decahydrate added to decompose the excess lithium aluminum hydride. The insoluble matter was filtered off, and the filtrate was concentrated under reduced pressure to give 860 mg of p-heptyloxybenzylamine.

reactant | sodium azide | 1.25 g | [N-]=[N+]=[N-].[Na+]
reactant | p-chloromethyl(heptyloxy)benzene | 900 mg | ClCC1=CC=C(C=C1)OCCCCCCC | C14H21ClO
solvent | water | 2.5 ml | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | p-heptyloxybenzylamine | 860 mg | C(CCCCCC)OC1=CC=C(CN)C=C1 | C14H23NO
